US09084794B2
b) (+)-methyl 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(3-methoxyquinolin-7-yl)phenyl)acetate
A solution of methyl 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetate (0.626 mmol) in 1,4-dioxane (2.5 mL) was treated with 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (0.751 mmol), potassium acetate (0.939 mmol), and PdCl2(dppf)-CH2Cl2 adduct (0.031 mmol). The reaction vessel was purged with nitrogen and sealed, and the mixture stirred in an oil bath at 80° C. overnight. The reaction mixture was cooled to room temperature and was treated with 7-bromo-3-methoxyquinoline (0.626 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.031 mmol), and 2M aq potassium carbonate (1.878 mmol). The solution was degassed with a stream of nitrogen for 3 min, at which point the reaction vessel was purged with nitrogen and sealed, and the mixture irradiated in a Biotage Initiator Microwave at 120° C. for 15 min. The resulting black mixture was diluted with water (100 mL) and was extracted three times with chloroform. The combined organic layers were treated with Silicycle Si-thiol (50 mg), dried over sodium sulfate, filtered and concentrated in vacuo. Purification of the residue by reverse phase HPLC (20-65% acetonitrile/water with 0.1% NH4OH) followed by chiral HPLC (Chiralpak IA column, methanol:acetonitrile-1:1) and lyophilization from water (w/25% acetonitrile) afforded the title compound as a white solid (94 mg, 26%). MS(ES)+ m/e 534.2 [M+H]+, >99% ee, αD=+58 deg (c=0.05, methanol:acetonitrile 1:1).

reactant | methyl 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetate | 0.626 mmol | BrC1=CC(=C(C=C1)C(C(=O)OC)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C20H24BrFN2O4
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.751 mmol | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.939 mmol | C(C)(=O)[O-].[K+]
reactant | 7-bromo-3-methoxyquinoline | 0.626 mmol | BrC1=CC=C2C=C(C=NC2=C1)OC | C10H8BrNO
reactant | potassium carbonate | 1.878 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.031 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
catalyst | PdCl2(dppf) CH2Cl2 | 0.031 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (+)-methyl 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(3-methoxyquinolin-7-yl)phenyl)acetate | 94 mg, 26% | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)OC)C2=C(C=C(C=C2)C2=CC=C1C=C(C=NC1=C2)OC)F)=O | C30H32FN3O5
